US05444050
3-Bromobenzyl alcohol (2.0 g, 10.7 mmol) was dissolved in dry THF (50 ml) in a dry 100 ml flask flushed with nitrogen. The mixture was chilled in a dry ice/acetone bath. n-Butyl lithium (11 ml of a 2.13M solution in hexane, 23.5 mmol) was added. The reaction was warmed to room temperature for 1 hour, then cooled in an ice water bath. Trimethyl borate (1.3 ml, 11.2 mmol) was added and the mixture was stirred at room temperature overnight, then treated with 2N aqueous HCl to pH 2, and stirred for 3 hours. Brine (15 ml) was added, and the mixture was extracted with ethyl acetate (3×15 ml). The organic materials were combined, dried (MgSO4) then concentrated under reduced pressure which gave of 3-hydroxymethylbenzeneboronic acid (98%) as a clear oil.

reactant | 3-Bromobenzyl alcohol | 10.7 mmol, 2.0 g | BrC=1C=C(CO)C=CC1 | C7H7BrO
reactant | Trimethyl borate | 11.2 mmol, 1.3 ml | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | Brine | 15 ml | [Cl-].[Na+].O
product | 3-hydroxymethylbenzeneboronic acid | 98% | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
